US07459453B2
1-[3-(Cyclopentyloxy)-4-methoxyphenyl]butane-1,3dione
To a stirred suspension of 60% sodium hydride (200 mg, 5 mmol) and ethyl acetate (0.49 ml, 5 mmol) in tetrahydrofuran (25 ml) were sequentially added a solution of 1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone (European Patent Application EP470805) (590 mg, 2.5 mmol) in tetrahydrofuran (5 ml), two drops of ethanol and a solution of dibenzo-18-crown (15 mg, 0.04 mmol) in tetrahydrofuran (5 ml). The reaction mixture was refluxed for 5 h, allowed to cool to room temperature and finally quenched with aqueous 10% sulphuric acid solution (5 ml). The resulting mixture was diluted with diethyl ether, washed with saturated ammonium chloride solution, dried and concentrated under reduced pressure to yield a crude product which was purified by column chromatography (SiO2, hexane-ethyl acetate 4:1) to afford the title compound (610 mg, 86% yield) as a pale yellow oil.

reactant | sodium hydride | 5 mmol, 200 mg | [H-].[Na+]
reactant | ethyl acetate | 5 mmol, 0.49 ml | C(C)(=O)OCC | C4H8O2
reactant | 1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone | 2.5 mmol, 590 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C(C)=O | C14H18O3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | ethanol | two drops | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | dibenzo-18-crown | 0.04 mmol, 15 mg | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
product | 1-[3-(Cyclopentyloxy)-4-methoxyphenyl]butane-1,3dione | 610 mg, 86% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)=O)=O | C16H20O4
